US04436726
15-Methyl-3-(13-methyltetradecanoyloxy)hexadecanoic acid (140 mg) prepared by the method described in Preparation 1-(3) and N-hydroxysuccinimide (34 mg) were dissolved in dioxane (2.5 ml). N,N-Dicyclohexylcarbodiimide (63 mg) was added thereto under ice cooling. The mixture was reached to room temperature and stirred at ambient temperature overnight. The crystallized urea was filtered off and the filtrate was concentrated to give a residue which was dissolved in N,N-dimethylformamide (5 ml). To this solution was added a solution of β-alanyl-L-threonine (100 mg) and triethylamine (90 μl) in water (3 ml) at 0° C. The resulting mixture was reached to room temperature and stirred at ambient temperature overnight. The reaction mixture was acidified with 1 N hydrochloric acid, extracted with ethyl acetate, washed with water and dried over magnesium sulfate. Ethyl acetate was distilled off to give a residue which was subjected to preparative thin layer chromatography (Merck, 0.25 mm×5) and eluted with a mixture of benzene, dioxane and acetic acid (10:5:1). The band containing the object compound was extracted with methanol and chloroform (3:7) and the solvent was evaporated off under reduced pressure to afford a wax of N-[N-[15-methyl-3-(13-methyltetradecanoyloxy)hexadecanoyl]-β-alanyl]-L-threonine (100 mg).

reactant | 15-Methyl-3-(13-methyltetradecanoyloxy)hexadecanoic acid | 140 mg | CC(CCCCCCCCCCCC(CC(=O)O)OC(CCCCCCCCCCCC(C)C)=O)C | C32H62O4
reactant | N-hydroxysuccinimide | 34 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | β-alanyl-L-threonine | 100 mg | NCCC(=O)N[C@@H]([C@H](O)C)C(=O)O | C7H14N2O4
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 3 ml | O | H2O
solvent | triethylamine | 90 μl | C(C)N(CC)CC | C6H15N
product | N-[N-[15-methyl-3-(13-methyltetradecanoyloxy)hexadecanoyl]-β-alanyl]-L-threonine | 100 mg | CC(CCCCCCCCCCCC(CC(=O)NCCC(=O)N[C@@H]([C@H](O)C)C(=O)O)OC(CCCCCCCCCCCC(C)C)=O)C | C39H74N2O7
